US08193199B2
Prepared according to Procedure C using (8-chloro-2-phenoxyquinolin-3-yl)-methanol (1.0 eq) and SOCl2 (5 eq) in CHCl3 (0.25 M) at rt. 8-chloro-3-(chloromethyl)-2-phenoxyquinoline was obtained after purification as a yellow oil.

reactant | (8-chloro-2-phenoxyquinolin-3-yl)-methanol | 1.0 eq | ClC=1C=CC=C2C=C(C(=NC12)OC1=CC=CC=C1)CO | C16H12ClNO2
reactant | SOCl2 | 5 eq | O=S(Cl)Cl | Cl2OS
solvent | CHCl3 | 0.25 M | C(Cl)(Cl)Cl | CHCl3
product | 8-chloro-3-(chloromethyl)-2-phenoxyquinoline | ClC=1C=CC=C2C=C(C(=NC12)OC1=CC=CC=C1)CCl | C16H11Cl2NO
